US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidine-3-carboxylic acid ethyl ester
To a solution of 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carboxylic acid ethyl ester (10.05 g, 32.90 mmol) in dry THF (100 ml) at −78° C. was slowly added LDA (20.1 ml, 1.8 M). The reaction mixture was stirred at this temperature for 1 h. Methyl iodide (2.25 ml, 36.21 mmol) was then added, the cooling bath removed and stirring was continued for 10 h. After addition of water, the reaction mixture was extracted with EtOAc (3×25 ml). The combined organic phases were dried over Na2SO4, filtered and the filtrate was evaporated to give the title compound, which was purified by column chromatography (EtOAc/heptane, 70:30).

reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carboxylic acid ethyl ester | 32.90 mmol, 10.05 g | C(C)OC(=O)C1CN(CCC1)CC1COC2=C(O1)C=CC=C2 | C17H23NO4
reactant | LDA | 1.8 M, 20.1 ml | [Li+].CC(C)[N-]C(C)C
reactant | Methyl iodide | 36.21 mmol, 2.25 ml | CI | CH3I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)C | C18H25NO4
